US05314902
β-[[3-[[[4(aminoiminomethyl)phenyl]amino]thiocarbonyl]aminopropanoyl]amino]propanoic acid
Ethyl β-[[3-[[[4(aminoiminomethyl)phenyl]amino]thiocarbonyl]aminopropanoyl]amino]propanoate (65 mg; 0.18 mmoles) was treated in 1N lithium hydroxide/methanol (20 ml; 1:1) for 10 min. Methanol was evaporated and the pH of the remaining mixture was adjusted to 5 with 50% acetic acid. The mixture was then purified by HPLC using a linear gradient of acetonitrile/water/0.05% trifluoro-acetic acid (0-20% acetonitrile in 30 min). Yield: 51 mg (85%). FAB-MS: MH+ =338.0.

reactant | Ethyl β-[[3-[[[4(aminoiminomethyl)phenyl]amino]thiocarbonyl]aminopropanoyl]amino]propanoate | 0.18 mmoles, 65 mg | NN=CC1=CC=C(C=C1)NC(=S)NCCC(=O)NCCC(=O)OCC | C16H23N5O3S
solvent | lithium hydroxide methanol | 1N, 20 ml | [OH-].[Li+].CO
product | β-[[3-[[[4(aminoiminomethyl)phenyl]amino]thiocarbonyl]aminopropanoyl]amino]propanoic acid | NN=CC1=CC=C(C=C1)NC(=S)NCCC(=O)NCCC(=O)O | C14H19N5O3S
